US07691866B2
Step 1. Synthesis of 2-chloroquinolin-6-ol
A solution of quinoline2,6-diol (1 eq) in THF (0.25 M) was treated with POCl3 (1.1 eq) and a drop of DMF. Crushed ice was added to the reaction mixture and EtOAc was added and neutralized with a solution of sodium bicarbonate. The mixture was brought back to pH 6-7 with 1N HCl and ethyl acetate layer was separated, washed with water and brine to provide title compound.

reactant | quinoline2,6-diol | 1 eq | N1=C(C=CC2=CC(=CC=C12)O)O | C9H7NO2
reactant | POCl3 | 1.1 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.25 M | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
